US04536578
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-methylpiperazine dihydrochloride
To 30 ml of dry dimethylformamide was added 2.0 g of 4-methylpiperazine, 4.2 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 8.0 g of sodium bicarbonate and a few crystals of potassium iodide. After stirring at 100° C. for one and one-half hrs, the mixture was filtered. The filtrate was evaporated to an oil. The oil was stirred with 100 ml water for five mins and extracted with ether. The ether solution was washed with water (2×), saturated sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated to an oil, which was dissolved in ether and converted to a salt by treatment with ethereal hydrogen chloride. Recrystallization from ethyl acetate/methanol/ether gave 3.2 g (46%) of product, mp 240° C. (dec). Recrystallization from ethyl acetate/methanol/ether gave the analytical sample, mp 245° (dec).

reactant | 4-methylpiperazine | 2.0 g | CN1CCNCC1 | C5H12N2
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 4.2 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 8.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-methylpiperazine dihydrochloride | 3.2 g, 46% | Cl.Cl.FC1=CC2=C(C(=NO2)CCCN2CCN(CC2)C)C=C1 | InChI=1S/C15H20FN3O.2ClH/c1-18-7-9-19(10-8-18)6-2-3-14-13-5-4-12(16)11-15(13)20-17-14;;/h4-5,11H,2-3,6-10H2,1H3;2*1H
